US07560558B2
4-Chlorosalicylic acid (344 mg), 1-ethyl-3-(3-dimethylaminopropylcarbodiimide hydrochloride (420 mg), 1-hydroxybenzotriazole hydrate (337 mg), and ethanol (2 ml) were dissolved in N,N-dimethylformamide to prepare a solution which was then stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give ethyl 4-chlorosalicylate (174 mg, yield 43%).

reactant | 4-Chlorosalicylic acid | 344 mg | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | 3-dimethylaminopropylcarbodiimide hydrochloride | 420 mg | Cl.CN(CCCN=C=N)C
reactant | 1-hydroxybenzotriazole hydrate | 337 mg | O.ON1N=NC2=C1C=CC=C2
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 4-chlorosalicylate | 174 mg, yield 43% | ClC=1C=C(C(C(=O)OCC)=CC1)O | C9H9ClO3
